US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(2-acetyl-thiazol-5-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[2-(2-methyl-[1,3]dioxolan-2-yl)-thiazol-5-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[2-(2-methyl-[1,3]dioxolan-2-yl)-thiazol-5-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C=1SC(=CN1)CN1N=CC(=N1)N | C10H13N5O2S
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(2-acetyl-thiazol-5-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C=1SC(=CN1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC=CC=C1 | C18H14N6O3S
